US08633201B2
To a solution of 3-fluoro-4-nitrobenzene carboxylic acid (18.0 g 1.0 eq, 0.10 mol) in THF (360 ml) at 0° C. was added thionyl chloride (56.7 ml, 8.0 eq, 0.78 mol) and DMF (1 ml.). The reaction was warmed to room temperature and stirred for 3.5 hours, after this point all starting material had been consumed. Thionyl chloride was then removed in vacuo to give 3-fluoro-4-nitrobenzoyl chloride as a yellow solid. This was dissolved in DCM (360 ml) and the solution added dropwise to a cooled solution of 880 ammonia in water (360 ml) with vigorous stirring. After the addition the reaction was stirred at room temperature for 15 minutes. The resultant precipitate was collected by filtration, and the filtrate was then filtered a further two more times. The three precipitates were each washed with cyclohexane (2×100 ml), dried in vacuo and combined to give the title compound as a yellow solid (13.32 g, 72 mmol, 74%). LCMS: [M+H]+=na, Rt=1.41 min, 100% purity.

reactant | 3-fluoro-4-nitrobenzene carboxylic acid | 0.10 mol, 18.0 g, 1.0 eq | FC=1C=C(C=CC1[N+](=O)[O-])C(=O)O | C7H4FNO4
reactant | thionyl chloride | 0.78 mol, 56.7 ml, 8.0 eq | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | THF | 360 ml | C1CCOC1 | C4H8O
product | 3-fluoro-4-nitrobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1[N+](=O)[O-] | C7H3ClFNO3
